US04093812
Add 2 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide to 4.7 ml of concentrated sulfuric acid while cooling on ice and then add thereto a solution of 0.78 g of sodium nitrite in 2 ml of water slowly and dropwise at a temperature not exceeding 7° C. Allow the resulting mixture to stand overnight; dilute with from 4 to 5 ml of concentrated sulfuric acid and then mix it (while cooling with ice) with 0.39 g of sodium nitrite in 1 ml of water. Allow the thus-prepared solution to stand at a temperature of 0° to 5° C for 2 days in a refrigerator and then pour it onto ice. Vacuum filter to separate formed precipitate and chromatograph with chloroform/ethanol (9:1) on a silica gel column to obtain 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid [m.p. 250° to 252° C].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | 2 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
reactant | sodium nitrite | 0.78 g | N(=O)[O-].[Na+]
reactant | sodium nitrite | 0.39 g | N(=O)[O-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | sulfuric acid | 4 to 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 ml | O | H2O
solvent | sulfuric acid | 4.7 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)O)C1=CC=CC=C1 | C14H9N3O5
